US05604229
(4) 2-Amino-2-(4-decylphenyl)-1,3-propanediol
2-(4-Decylphenyl)-2-nitro-1,3-propanediol (170 mg) was dissolved in ethanol (30 ml) and the mixture was subjected to catalytic reduction in the presence of 5% palladium carbon (40 mg) under hydrogen pressure of 20 arm. After stirring the mixture for 8 hours, the insoluble matters were filtered off and the filtrate was concentrated. The residue was purified by preparative thin layer chromatography (silica gel) to give 8.9 mg of the subject compound.

reactant | 2-(4-Decylphenyl)-2-nitro-1,3-propanediol | 170 mg | C(CCCCCCCCC)C1=CC=C(C=C1)C(CO)(CO)[N+](=O)[O-] | C19H31NO4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium carbon | 40 mg | [C].[Pd]
product | 2-Amino-2-(4-decylphenyl)-1,3-propanediol | 8.9 mg | NC(CO)(CO)C1=CC=C(C=C1)CCCCCCCCCC | C19H33NO2
